2161-11-14 08:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-11-13**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-14**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.4
   HR: 81 (74 - 90) bpm
   BP: 124/52(70) {92/49(63) - 155/96(106)} mmHg
   RR: 21 (18 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
           Total In:
                                                                     29 mL
                                                                    821 mL
   PO:
           TF:
   IVF:
                                                                     29 mL
                                                                     71 mL
   Blood products:
   750 mL
   Total out:
                                                                    230 mL
                                                                    355 mL
   Urine:
                                                                    230 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -201 mL
                                                                    466 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   208 K/uL
   104 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.0 mEq/L
   15 mg/dL
   103 mEq/L
   138 mEq/L
   26.1 %
   10.9 K/uL
        [image002.jpg]
                            [**2161-11-13**]  10:30 PM
                            [**2161-11-14**]  05:23 AM
   WBC
   10.6
   10.9
   Hct
   19.3
   26.1
   Plt
   224
   208
   Cr
   0.9
   1.0
   Glucose
   111
   104
   Other labs: PT / PTT / INR:16.4/30.7/1.5, Ca++:8.0 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   This is a 75F who was recently diagnosed with atrial fibrillation s/p
   cardioversion on [**11-6**] who was discharged [**11-9**] on coumadin with a
   lovenox bridge who presented today from nursing home with back pain for
   the last 3 days.  CT abdomen who significant for large RP bleed.
   RP Bleed - Spontaneous retroperitoneal bleed in the setting of new
   coumadin/lovenox use for atrial fibrillation.  Initial INR 2.1, got 2
   units FFP and 10mg IV Vitamin K.
   Arterial bleed from R lumbar branch s/p IR-guided embolization.
   - q4h HCT
   - Hold coumadin, lovenox and ASA
   - Would recommend against restarting coumadin as patient is also a
   significant fall risk [**2-16**] orthostatic hypotension, in addition to this
   bleed
   - NPO for now
   - active T&S
   - Transfuse for HCT<25
   Hypertension - Currently hypertensive.  Son states that he suping BP's
   often run greater than 200.  However, patient has significant
   orthostatic hypotension.
   - Will hold BBlocker in setting of bleed
   - Ace in am
   - IV hydral overnight if SBP>160
   Dementia/[**Name (NI) 9092**] - Pt does have history of sundowning.
   - Continue Cinemet
   - Frequent reorientation
   - Minimize line and tubes
   Anxiety - Pt has history of significant anxiety.  Pt takes stivan at
   least 3 times at baseline.  Has not been known to have paradoxical
   reaction per her family,
   - Continue judicious use of ativan.
   Atrial Fibrillation - Discharged from [**Hospital1 **] on [**11-9**] following
   cardioversion.  Put on coumadin with lovenox bridge.
   - Continue amiodarone
   - Hold coumadin and lovenox indefinitely
   - Would recommend against restarting coumadin as patient is also a
   significant fall risk [**2-16**] orthostatic hypotension, in addition to this
   bleed
   Diarrhea - Pt had 2 ipisodes of loose stools upon arriving to the
   hospital.  Low grade temos and white count could be attributable to RP
   bleed, however, given recent hospitalization and nursing home stay,
   will rule out infectious etiologies as well.
   - send stool cultures
   Depression - Continue sertraline, currenlty on a dose escalation, due
   to increase from 12.5 to 25mg daily on [**11-15**]
   FEN - NPO overnight, replete lytes prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-11-13**] 09:00 PM
   20 Gauge - [**2161-11-14**] 01:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2161-11-15 14:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   75 y/o with newly diagnosed afib s/p cardioversion [**11-6**] d/c on
   coumadin/lovenox.  Presented from NH with back pain x 3 days
 found to
   have large RP bleed s/p embolization by IR.  Hct stable and transferred
   to floor the next morning ([**11-14**]).  Today, developed increasing hypoxia
   and tachypnea with worsening bilateral infiltrates and effusions on
   CXR.
   24 Hour Events:
   - Transferred to floor
   - Worsening hypoxemia/tachypnea
   - Given Lasix 40mg IV x 1 with UOP 300ccs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea, Fatigue
   Flowsheet Data as of  [**2161-11-15**] 02:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 66 (66 - 94) bpm
   BP: 140/69(88) {124/56(73) - 147/121(116)} mmHg
   RR: 21 (21 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                  1,998 mL
                  PO:
                                                                    680 mL
                  TF:
   IVF:
                                                                    568 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    965 mL
                                                                    200 mL
   Urine:
                                                                    965 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,033 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds:  Bibasilar crackles with decreased
   BS at bases : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   208 K/uL
   104 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   15 mg/dL
   103 mEq/L
   138 mEq/L
   25.3 %
   10.9 K/uL
        [image002.jpg]
                            [**2161-11-13**]  10:30 PM
                            [**2161-11-14**]  05:23 AM
                            [**2161-11-14**]  09:56 AM
                            [**2161-11-14**]  05:22 PM
   WBC
   10.6
   10.9
   Hct
   19.3
   26.1
   26.2
   25.3
   Plt
   224
   208
   Cr
   0.9
   1.0
   Glucose
   111
   104
   Other labs: PT / PTT / INR:16.4/30.7/1.5, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: 7.38/46/76 on 3L NC 9:18 am
   7.35/53/101 on 70% HF FM at 12:44pm
   Imaging: CXR - Bilateral effusions R>L with increase interstitial
   opacities consistent with volume overload/pulmonary edema.
   Microbiology: [**11-13**] - Blood NGTD; [**11-14**] Urine contaminated; [**11-14**] Stool
   - C. diff negative.
   Assessment and Plan
   75 y/o with newly diagnosed afib s/p cardioversion [**11-6**] d/c on
   coumadin/lovenox.  Presented from NH with back pain x 3 days
 found to
   have large RP bleed s/p embolization by IR.  Now with worsening
   respiratory distress, hypoxemia, and bilateral infiltrates/effusions.
   #Hypoxemia
 Likely due to volume overload from multiple blood products
   and IVF resuccitation.  Must also consider TRALI, ACS, or pneumonia
   (given fevers on presentation)
   - Diuresis, goal 1L negative
   - Consider BiPap if decompensates
   - R/O ACS (enzymes, EKG), consider TTE in am if positive
   - Add antibiotics if does not improve with diuresis or if signs of
   infection develop (fever, elevated WBC count, cough/sputum, etc)
   # RP Bleed - Spontaneous in the setting of anticoagulation for atrial
   fibrillation.  Found to have arterial bleed from R lumbar branch s/p
   IR-guided embolization. Hct slowly trending down.
   - Serial Hcts, goal >24 (If not emergent, will wait until respiratory
   status more stable to transfuse
 maybe in am)
   - Hold coumadin, lovenox and ASA
   # Atrial Fibrillation - Discharged from [**Hospital1 **] on [**11-9**] following
   cardioversion.  Put on coumadin with lovenox bridge.
   - Continue amiodarone and BB
   - On ACE for hypertension.
   - Hold coumadin and lovenox indefinitely given RP bleed
   # Dementia/Parkinson's - History of sundowning.  H/o depression/anxiety
   as well.
   - Continue Cinemet / Ativan / Sertraline
   - Frequent reorientation
   - Minimize line and tubes
 d/c foley
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-11-15**] 02:24 PM
   20 Gauge - [**2161-11-15**] 02:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Ms. [**Known lastname **] with Dr. [**Last Name (STitle) 2956**], whose note reflects my
   input.  Return to ICU for respiratory distress and hypoxemia.  Has had
   waxing and [**Doctor Last Name 226**] of alertness.  Although a few hours ago was
   unarousable, now alert, answering questions, oriented x 3, and can
   spell
world
 forward and backward.
   75 y/o woman initially admitted with RP bleed while anticoagulated,
   treated with embolization.  Went to floor and returns with respiratory
   distress and radiographic infiltrates but neither fever nor
   leucocytosis.  Oxygenation has improved with time and diuresis.
   Differential includes fluid overload (TACO) and acute lung injury
   (TRALI).  Bacterial pneumonia seems less likely given clinical picture,
   and we will therefore hold off on antibiotics.  Acute coronary syndrome
   seems less likely given reassuring cardiogram, but will check enzymes.
   For RP bleed, will hold anticoagulation and follow Hcts.  If needed,
   transfuse but carefully.  Can re-discuss anticoagulation with patient,
   family, and usual care providers once acute phase has passed.
   For altered mental status: if episodes of apparent obtundation persist,
   would consider EEG to exclude non-convulsive seizure disorder.  Rapid
   improvement argues that this is unlikely to be related to her chronic
   benzodiazepine use.
   Other issues as per Dr. [**Last Name (STitle) 2956**].
   Discussed with patient, husband, and family.
   She is critically ill: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 560**], MD
   on:[**2161-11-15**] 09:13 PM ------

2161-11-16 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Improved with IV Lasix
   Woke up yesterday with clearer Mental Status
   Patient was given 1uPRBC for HCT 22 along with 20mg IV Lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-16**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 76 (62 - 91) bpm
   BP: 173/83(105) {91/33(56) - 173/109(123)} mmHg
   RR: 26 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                  300 mL
   PO:
                  300 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,735 mL
                                                                    230 mL
   Urine:
                                                                  1,135 mL
                                                                    230 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -2,735 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   240 K/uL
   7.2 g/dL
   92 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   19 mg/dL
   105 mEq/L
   139 mEq/L
   22.1 %
   6.9 K/uL
        [image002.jpg]
                            [**2161-11-13**]  10:30 PM
                            [**2161-11-14**]  05:23 AM
                            [**2161-11-14**]  09:56 AM
                            [**2161-11-14**]  05:22 PM
                             [**2161-11-15**]  06:40 PM
                             [**2161-11-16**]  05:54 AM
   WBC
   10.6
   10.9
   7.5
   6.9
   Hct
   19.3
   26.1
   26.2
   25.3
   22.6
   22.1
   Plt
   [**Telephone/Fax (3) 9709**]40
   Cr
   0.9
   1.0
   0.8
   0.8
   TropT
   0.01
   <0.01
   Glucose
   111
   104
   98
   92
   Other labs: PT / PTT / INR:12.8/27.4/1.1, CK / CKMB /
   Troponin-T:465/4/<0.01, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   A&P:  75F who was recently diagnosed with atrial fibrillation s/p
   cardioversion on [**11-6**] who was discharged [**11-9**] on coumadin with a
   lovenox bridge who presented with back pain, found to have a
   spontaneous RP bleed, now s/p embolization and in respiratory
   distress.
   .
   # Hypoxemic respiratory distress:  Within the past 48 hours, pt has
   received 2 units of PRBCs and 4 units of FFP.  CXR shows worsening
   pleural effusions and pulmonary edema.  Climbing CO2 suggests that pt
   may be tiring soon.  Pt had low grade fever of 100.1 on admission but
   was afebrile on the floor.  [**Month (only) 8**] be hiding pneumonia behind her pleural
   effusion or retrocardiac space though initial CXR was clear.  Less
   likely ACS.  Somewhat far out to be TRALI.
   - IV Lasix for I&O goal of -1 to -2 L
   - BiPAP trial as needed
   - NPO for now
   - cover for hospital acquired pnumonia if becomes febrile, develops
   productive cough
   - check EKG, serial CEs
   .
   # Retroperitoneal Bleed:  This was spontaneous in the setting of new
   coumadin/lovenox use for atrial fibrillation.  She has received 2 units
   of PRBCs, 4 units of FFP, and 10 mg IV vitamin K.  She has underwent
   embolization and her HCT is now somewhat stable at 23.6.  Initial INR
   2.1, got 2 units FFP and 10mg IV Vitamin K.
   - active T&S
   - HCT q8 hrs
   - Transfuse for HCT<25 or hemodynamic instability
   - Hold coumadin, lovenox and ASA
   - Would recommend against restarting coumadin as patient is also a
   significant fall risk [**2-16**] orthostatic hypotension, in addition to this
   bleed.
   .
   # Diarrhea:  Pt with episodes of dirrhea here.
   - check C. diff x3
   .
   # Hypertension:  Currently hypertensive.  Son states that he supine
   BP's often run greater than 200.  However, patient has significant
   orthostatic hypotension.
   - cont. BB, ACEI
   .
   # Atrial Fibrillation: Discharged from [**Hospital1 **] on [**11-9**] following
   cardioversion.
   - Continue amiodarone, BB
   - Hold coumadin and lovenox indefinitely
   - Would recommend against restarting coumadin as patient is also a
   significant fall risk [**2-16**] orthostatic hypotension, in addition to this
   bleed
   .
   # Dementia/Parkinson's: Pt does have history of sundowning.
   Hypercapnia may be worsening mental status
   - Continue Cinemet
   - Frequent reorientation
   - Minimize line and tubes
   .
   # Anxiety/Depression: Pt has history of significant anxiety.  Pt takes
   stivan at least 3 times at baseline.  Has not been known to have
   paradoxical reaction per her family,
   - Continue judicious use of ativan.
   - Continue sertraline
   .
   # FEN: -1-2 L goal, monitor/replete lytes [**Hospital1 **] with Lasix, and NPO until
   respiratory status improves
   # PPx: pneumoboots
   # Code Status: Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-11-15**] 02:24 PM
   20 Gauge - [**2161-11-15**] 02:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2161-11-16 11:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - O2 weaned overnight
   - Mental status cleared
   - Ordered for 1 unit PRBC for Hct 22 with lasix 20 IV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Lopressor, Zoloft, Amio, Lorazepam, Lisinopril, Vit D, Tums, Iron,
   Carbelevodopa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-11-16**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 65 (62 - 91) bpm
   BP: 172/80(102) {91/33(56) - 179/109(123)} mmHg
   RR: 22 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                  500 mL
   PO:
                  500 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,735 mL
                                                                    590 mL
   Urine:
                                                                  1,135 mL
                                                                    590 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -2,735 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   240 K/uL
   92 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   19 mg/dL
   105 mEq/L
   139 mEq/L
   22.1 %
   6.9 K/uL
        [image002.jpg]
                            [**2161-11-13**]  10:30 PM
                            [**2161-11-14**]  05:23 AM
                            [**2161-11-14**]  09:56 AM
                            [**2161-11-14**]  05:22 PM
                             [**2161-11-15**]  06:40 PM
                             [**2161-11-16**]  05:54 AM
   WBC
   10.6
   10.9
   7.5
   6.9
   Hct
   19.3
   26.1
   26.2
   25.3
   22.6
   22.1
   Plt
   [**Telephone/Fax (3) 9709**]40
   Cr
   0.9
   1.0
   0.8
   0.8
   TropT
   0.01
   <0.01
   Glucose
   111
   104
   98
   92
   Other labs: PT / PTT / INR:12.8/27.4/1.1, CK / CKMB /
   Troponin-T:465/4/<0.01, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: No new imaging.
   Microbiology: [**11-14**] C. diff negative. [**11-14**] blood NGTD.
   Assessment and Plan
   75 y/o with newly diagnosed afib s/p cardioversion [**11-6**] d/c
d on
   coumadin/lovenox.  Presented from NH with back pain x 3 days
 found to
   have large RP bleed s/p embolization by IR.  Now with worsening
   respiratory distress, hypoxemia, and bilateral infiltrates/effusions.
   # Hypoxemia
 Likely due to volume overload from multiple blood
   products and IVF resuccitation.  Must also consider TRALI, ACS, or
   pneumonia (given fevers on presentation).  Improved with diuresis.
   - Ongoing diuresis, goal 1L negative
   - Add antibiotics if hypoxia worsens or signs of infection develop
   (fever, elevated WBC count, cough/sputum, etc)
   # RP Bleed - Spontaneous in the setting of anticoagulation for atrial
   fibrillation.  Found to have arterial bleed from R lumbar branch s/p
   IR-guided embolization. Hct slowly trending down.
   - Serial Hcts, goal >24
 Will get 1 unit PRBC today
   - Hold coumadin, lovenox and ASA
   # Atrial Fibrillation - Discharged from [**Hospital1 **] on [**11-9**] following
   cardioversion.  Put on coumadin with lovenox bridge.
   - Continue amiodarone and BB
   - On ACE for hypertension.
   - Hold coumadin and lovenox indefinitely given RP bleed
   # Dementia/Parkinson's - History of sundowning.  H/o depression/anxiety
   as well.
   - Continue Cinemet / Sertraline
   - Decrease Ativan dose given somnolence
   - Frequent reorientation
   - Minimize line and tubes
   ICU Care
   Nutrition: SLP consult then advance diet per their recommendations
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-11-15**] 02:24 PM
   20 Gauge - [**2161-11-15**] 02:25 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, Potential call out this afternoon if stable after
   PRBC
   Total time spent: 30 minutes